US04877723
37.6 g of 6-nitro-2-styrylquinoline-6-nitroquinaldine, 21.2 g of benzaldehyde and 20.4 g of acetic anhydride were mixed and heated for 5 hours under reflux. After the reaction mixture was allowed to cool, 100 ml of ethyl acetate were added thereto and the deposited crystals were filtered. 41.6 g (75% of the theoretical yield) of the 6-nitro-2-styrylquinoline crystals were produced.

reactant | 6-nitro-2-styrylquinoline 6-nitroquinaldine | 37.6 g | [N+](=O)([O-])C=1C=C2C=CC(=NC2=CC1)C=CC1=CC=CC=C1.[N+](=O)([O-])C=1C=C2C=CC(=NC2=CC1)C
reactant | benzaldehyde | 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic anhydride | 20.4 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 6-nitro-2-styrylquinoline | [N+](=O)([O-])C=1C=C2C=CC(=NC2=CC1)C=CC1=CC=CC=C1 | C17H12N2O2
